US07915281B2
2-[(5-Pyridin-3-ylisoxazol-3-yl)methyl]-1H-isoindole-1,3(2H)-dione (2.95 g, 9.67 mmol) was treated with hydrazine hydrate (1.14 g, 19.3 mmol) according to the method described in Part E of Example 35 to provide (5-pyridin-3-ylisoxazol-3-yl)methylamine as a pale yellow solid.

reactant | 2-[(5-Pyridin-3-ylisoxazol-3-yl)methyl]-1H-isoindole-1,3(2H)-dione | 9.67 mmol, 2.95 g | N1=CC(=CC=C1)C1=CC(=NO1)CN1C(C2=CC=CC=C2C1=O)=O | C17H11N3O3
reactant | hydrazine hydrate | 19.3 mmol, 1.14 g | O.NN
product | (5-pyridin-3-ylisoxazol-3-yl)methylamine | N1=CC(=CC=C1)C1=CC(=NO1)CN | C9H9N3O
